US07115750B1
4-[[2-(2-Piperidinoethyl)-6-tetralinyl]oxymethyl]-N-(2-pyridinyl)benzamide
Triethylamine (0.11 ml) was added to THF suspension (6 ml) of 4-[[2-(2-piperidinoethyl)-6-tetraliny]oxymethyl]benzoate (300 mg). Trimethylacetyl chloride (0.095 ml) was added dropwise to the obtained suspension under ice-cooling, which was stirred for 30 minutes. The temperature of the reaction mixture was raised to room temperature, which was stirred for 1 hour. THF solution (1.0 ml) of 2-aminopyridine (110 mg) was added dropwise to the reaction mixture under ice-cooling, which was stirred for 1 hour. Then the reaction mixture was stirred at room temperature for 6 hours, and at 60° C. for 12 hours, which was refluxed with heating for 6 hours. Saturated sodium bicarbonate solution was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using alumina column chromatography (development solvent: THF), and recrystallized (ethyl acetate-IPE) to give the titled compound (30 mg).

reactant | 4-[[2-(2-piperidinoethyl)-6-tetraliny]oxymethyl]benzoate | 300 mg | N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)[O-])C=C1
reactant | Trimethylacetyl chloride | 0.095 ml | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-aminopyridine | 110 mg | NC1=NC=CC=C1 | C5H6N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | Triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
product | 4-[[2-(2-Piperidinoethyl)-6-tetralinyl]oxymethyl]-N-(2-pyridinyl)benzamide | 30 mg | N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)NC2=NC=CC=C2)C=C1 | C30H35N3O2
